US04694080
3-Cyano-4-hydroxy-2-(2-methoxyethoxymethyl)-1,2-benzothiazine 1,1-Dioxide
To a solution of o-carbomethoxy-N-cyanomethylbenzenesulfonamide (6.25 g) in dichloromethane (50 ml) was added triethylamine (2.5 g) and then beta-methoxyethoxymethyl chloride (3.12 g) at 5°-10° C. After being stirred for 1 hour at room temperature, the mixture was washed with water, dried over sodium sulfate and concentrated. To the resulting oil was added toluene (33 ml) and then 28% sodium methoxide in methanol (4.6 ml) and stirring was continued for an additional 16 hours at room temperature. The mixture was extracted with water (50 ml) and the aqueous layer was acidified to pH 2 with 6N HCl and extracted with dichloromethane. The resulting organic layer was washed with water, dried over sodium sulfate and concentrated to a viscous oil, which was submitted to silica gel column chromatography (SiO2, 100 g) and eluted with a mixed solvent (CH2Cl2 :CH3OH 4:1) to give the title product as a viscous oil.

reactant | o-carbomethoxy-N-cyanomethylbenzenesulfonamide | 6.25 g | C(=O)(OC)C1=C(C=CC=C1)S(=O)(=O)NCC#N | C10H10N2O4S
reactant | triethylamine | 2.5 g | C(C)N(CC)CC | C6H15N
reactant | beta-methoxyethoxymethyl chloride | 3.12 g | COCCOCCl | C4H9ClO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-Cyano-4-hydroxy-2-(2-methoxyethoxymethyl)-1,2-benzothiazine 1,1-Dioxide | C(#N)C=1N(S(C2=C(C1O)C=CC=C2)(=O)=O)COCCOC | C13H14N2O5S
